US07589077B2
Chlorine gas was bubbled slowly into a suspension of 5-chloro-3′-fluoro-2′,3′-dideoxyuridine (75 mg, 0.28 mmol) in glacial acetic acid (5 ml) at 25° C. with stirring until the light yellow-green color of the resulting solution persisted. The reaction was allowed to proceed for 30 min. at 25° C., prior to evaporation. Purification of the residue obtained by PTLC using ethylacetate:hexanes (3:7, v/v) as development solvent afforded diastereomer (6S)-5,5-dichloro-O6-5′-cyclo-5,6-dihydro-3′-fluoro-2′,3′-dideoxyuridine (R-31) and one, diastereomer of 5,5-dichloro-6-acetoxy-5,6-dihydro-3′-fluoro-2′,3′-dideoxyuridine.

reactant | Chlorine | ClCl | Cl2
reactant | 5-chloro-3′-fluoro-2′,3′-dideoxyuridine | 0.28 mmol, 75 mg | ClC=1C(NC(N([C@H]2C[C@@H]([C@@H](CO)O2)F)C1)=O)=O | C9H10ClFN2O4
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5,5-dichloro-6-acetoxy-5,6-dihydro-3′-fluoro-2′,3′-dideoxyuridine | ClC1(C(NC(N([C@H]2C[C@@H]([C@@H](CO)O2)F)C1OC(C)=O)=O)=O)Cl | C11H13Cl2FN2O6
